US08242129B2
(E)-4-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid
Commercially available 4-formylbenzoic acid (15.0 g, 0.1 mol) and commercially available 4′-hydroxy-3′-methylacetophenone (15.0 g, 0.1 mol) were dissolved in 150 mL of methanol and 50 mL of water. The solution was cooled with an ice-water bath, to which was added potassium hydroxide (28.0 g, 0.5 mol). The reaction mixture was stirred overnight. The resulted mixture was poured on to 600 mL of ice-water, acidified to pH=4-5 with 1 M HCl, filtered, washed with water (200 mL), and dried in the air. 25 g (87%) of a yellowish solid was obtained.

reactant | 4-formylbenzoic acid | 0.1 mol, 15.0 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | 4′-hydroxy-3′-methylacetophenone | 0.1 mol, 15.0 g | OC1=C(C=C(C=C1)C(C)=O)C | C9H10O2
reactant | potassium hydroxide | 0.5 mol, 28.0 g | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | (E)-4-(3-(4-Hydroxy-3-methylphenyl)-3-oxoprop-1-enyl)benzoic acid | 25 g, 87% | OC1=C(C=C(C=C1)C(/C=C/C1=CC=C(C(=O)O)C=C1)=O)C | C17H14O4
